US07417060B2
To a solution of (2R)-2-(4-nitrophenyl)oxirane (1.21 g) in dimethyl sulfoxide (1.11 ml) was added N,O-bis(trimethylsilyl)acetamide (1.12 ml) and the reaction mixture was stirred at room temperature for 1.5 hours. To the reaction mixture was added a solution of 3-(4-bromophenyl)-1-propanamine (1.55 g) in dimethyl sulfoxide (7 ml) and the reaction mixture was stirred at 90° C. for 16 hours. After cooling to room temperature, 5% aqueous acetic acid (60 ml) was added and the reaction mixture was stirred at room temperature for 1 hour. The pH was adjusted to 10 by using 1N aqueous sodium hydroxide solution. The mixture was extracted with ethyl acetate and the organic layer was washed with water and brine, and dried over magnesium sulfate. Filtration followed by evaporation under reduced pressure gave a crude product (3.61 g). To a solution of the product in tetrahydrofuran (35 ml) was added di-tert-butyl dicarbonate (1.56 g) and the mixture was stirred at room temperature for 7 hours. The mixture was partitioned between ethyl acetate and water and the organic layer was separated, washed with brine, and dried over magnesium sulfate. Filtration followed by evaporation under reduced pressure gave a crude product which was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=4/1) to give tert-butyl [3-(4-bromophenyl)propyl][(2R)-2-hydroxy-2-(4-nitrophenyl)ethyl]carbamate (663 mg) as an orange solid.

reactant | (2R)-2-(4-nitrophenyl)oxirane | 1.21 g | [N+](=O)([O-])C1=CC=C(C=C1)[C@H]1OC1 | C8H7NO3
reactant | N,O-bis(trimethylsilyl)acetamide | 1.12 ml | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | 3-(4-bromophenyl)-1-propanamine | 1.55 g | BrC1=CC=C(C=C1)CCCN | C9H12BrN
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 1.56 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dimethyl sulfoxide | 1.11 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 7 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | tert-butyl [3-(4-bromophenyl)propyl][(2R)-2-hydroxy-2-(4-nitrophenyl)ethyl]carbamate | 663 mg | BrC1=CC=C(C=C1)CCCN(C(OC(C)(C)C)=O)C[C@@H](C1=CC=C(C=C1)[N+](=O)[O-])O | C22H27BrN2O5
